Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
paresthesias
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Ms. ___ is a generally healthy ___ F who presents to
___ ED with >1 week of progressive leg parasthesias, now with
new bowel and bladder incontinence.

Ms. ___ reports that her symptoms began approximately 2 months
ago, after helping her boss move apartments. She did a lot of
lifting, but did not notice any acute trauma at the time. The
next morning, she awoke with a pain in her R paraspinal muscle
~L4. The pain persisted throughout the month, often exacerbated
by her job which requires a lot of lifting and twisting.

On ___, she traveled to ___ for ___. On that
___, she began to feel ill with a cough and muscle aches. She
was at the grocery store in the morning when she felt her RLE
suddenly go "numb". She describes feeling pins and needles in 
her
toes, with the parasthesias extending all the way up her leg. 
She
was able to ambulate without falling or clear weakness, but
states that "it felt like I was moonwalking." The symptoms
resolved spontaneously after a few minutes.

Later that day (___), while sitting on the cough, she had
another episode of RLE numbness. This was accompanied by a
shooting pain that traveled down from her flank, into the
buttocks, and into the posterior R thigh. She had several
episodes of pain and numbness (whole RLE leg), that lasted a few
minutes each. Given that she was feeling generally unwell, she
went to a ___ ED for further evaluation.

Reportedly, the OSH ED was concerned for epidural abscess and 
did
an MRI L spine to rule this out (normal). A CT T and L spine 
were
also performed (normal). She was given a dose of prophylactic
antibiotics, that she believes she was told might give her
diarrhea. She tested positive for the flu. She was sent home 
with
a diagnosis of flu and sciatica and given oxycodone, flexeril,
ibuprofen, and lidocaine patches for symptomatic relief.

Ms. ___ traveled back to ___ shortly after ___. On
___, she began to have significant diarrhea. She
notes that she also had a decreased appetite which she believes
is secondary to +GERD, and she has vomited a few times in the
last week. Stomach ache and diarrhea have persisted throughout
the week. She also continued to have intermittent numbness of 
the
right and now left leg. The numbness is precipitated by standing
or sitting upright, and will usually come on after a few minutes
of maintaining this position. She continued to have her
sciatica-like pain, but notes that it was actually somewhat
improved. She did, however, develop a new pain, centered around
the SI joint bilaterally without clear radiation.

This morning, while sitting on her cough, she felt the need to 
go
to the bathroom ("I felt like I was gonna have diarrhea"). When
she stood up, she noted that she was already covered in diarrhea
and could feel it on her legs and groin. However, she had not
felt herself loose control of her bowels, and was quite 
surprised
and upset by it. Because of this, and her persistent other
symptoms, she presented to the ___ ED.

When she arrived at the ED, she was asked for a urine sample. On
providing the sample, she noted that her underwear was wet. She
could feel the wetness after realizing it was there, but felt
that she "must have been leaking" without knowing it."

On my interview, she continues to report some R paraspinal and
bilateral SI joint pain. She is lying flat and does not have any
numbness or tingling. She denies any HA or visual changes. No
weakness. No confusion or speech difficulty. She has been having
chills and sweats, with persistent diarrhea, vomiting, and 
+GERD.

 
Past Medical History:
PAST MEDICAL HISTORY:
- migraines, L sided
  - resolved around puberty
  - since that time, has had migraine ___ per year
- anxiety (previously on meds, not currently)
 
Social History:
___
Family History:
No known family history of MS or other autoimmune conditions.
 
Physical Exam:
Admission Exam: 
PHYSICAL EXAMINATION:
VS T98.6 HR96 BP110/73 RR18 Sat100RA
GEN - well appearing, well developed
HEENT - NC/AT, MMM
NECK - full ROM, no meningismus
CV - RRR
RESP - normal WOB
ABD - soft, NT, ND
EXTR - mild TTP over R flank and B/L SI joints

NEUROLOGICAL EXAMINATION:
MS - Awake, alert, oriented x 3. Attention to examiner easily
attained and maintained. Concentration maintained when recalling
months backwards. Recalls a coherent history. Structure of 
speech
demonstrates fluency with full sentences, and normal prosody. No
paraphasic errors. Intact repetition, naming, reading, and
comprehension. No evidence of apraxia or neglect.

CN - [II] PERRL 5->2 brisk. VF full to number counting. [III, 
IV,
VI] EOMI, no nystagmus. Normal saccades. [V] V1-V3 without
deficits to light touch and PP bilaterally. [VII] No facial
movement asymmetry with forced eyelid closure or volitional
smile. [VIII] Hearing intact to voice. [IX, X] Palate elevation
symmetric. No dysarthria. [XI] SCM/Trapezius strength ___
bilaterally. [XII] Tongue midline with full ROM.

MOTOR - Normal bulk and tone. No pronation, no drift. No 
orbiting
with arm roll. No tremor or asterixis. 
=[Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas] 
[EDB]
  [C5]  [C5]  [C7]  [C6]  [T1] [L2]  [L3]  [L5]  [L4] [S1]  [L5]
L  5      5     5     5     5    5    5      5     5    5     4+
R  5      5     5     5     5    5    4+     5     5    5     4+
Normal rectal tone.

SENSORY - No deficits to light touch, vibration or 
proprioception
bilaterally. No deficit to PP in the extremities. She does 
report
a suspended sensory level on the R back, between L4 and S1. No
saddle anesthesia.

REFLEXES - 
=[Bic] [Tri] [___] [Quad] [Gastroc]
L 2      2      2      2        2
R 2      2      2      2        2
Plantar response flexor on the L, mute on the R.

COORD - No dysmetria with finger to nose Good speed and intact
cadence with rapid alternating movements. Negative Romberg.

GAIT - Normal initiation. Narrow base. Normal stride length and
arm swing. Stable without sway. Able to tandem without
difficulty.

--------------------
Discharge Exam: 
MS, CN: intact
Motor:
[Delt] [Bic] [Tri] [ECR] FEx [IO] [IP] [Quad] [Ham] [TA] [Gas] 
[EDB]
L  5      5     5       5     5    5    5      5     5    5     
5   5      5
R  5      5     5       5     5    5    5     5     5    5     5 
   5      5
Sensory: decreased pp in low T/ high L over R paraspinal muscle 
tenderness ( not a radicular level) otherwise intact to pp in 
___. intact proprioception 
Coordination: FNF intact. 
 
Pertinent Results:
___ 11:30AM BLOOD WBC-4.7 RBC-4.71 Hgb-13.9 Hct-41.0 MCV-87 
MCH-29.5 MCHC-33.9 RDW-12.5 RDWSD-40.1 Plt ___
___ 06:15PM BLOOD WBC-7.8 RBC-5.06 Hgb-14.9 Hct-43.0 MCV-85 
MCH-29.4 MCHC-34.7 RDW-12.6 RDWSD-38.2 Plt ___
___ 06:15PM BLOOD Neuts-62.1 ___ Monos-6.9 Eos-1.0 
Baso-0.5 Im ___ AbsNeut-4.84 AbsLymp-2.28 AbsMono-0.54 
AbsEos-0.08 AbsBaso-0.04
___ 06:15PM BLOOD ___ PTT-30.2 ___
___ 06:15PM BLOOD Glucose-92 UreaN-12 Creat-0.7 Na-140 
K-4.6 Cl-101 HCO3-23 AnGap-21*
___ 06:15PM BLOOD ALT-25 AST-24 CK(CPK)-42 AlkPhos-71 
TotBili-0.3
___ 06:15PM BLOOD Albumin-4.6 Calcium-10.6* Phos-4.1 Mg-1.9
___ 07:06AM BLOOD Calcium-9.5 Phos-4.7* Mg-2.0
___ 07:06AM BLOOD VitB12-403
___ 11:55AM BLOOD %HbA1c-5.0 eAG-97
___ 07:06AM BLOOD TSH-1.4
___ 06:15PM BLOOD CRP-1.5
___ 06:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:51PM BLOOD Lactate-1.4
___ 07:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 07:00PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 07:00PM URINE RBC-<1 WBC-2 Bacteri-FEW Yeast-NONE Epi-0
___ 07:00PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
___ is a generally healthy ___ F who presents to ___ 
ED with >1 week of progressive leg parasthesias, now with new 
bowel and bladder incontinence. MRI T/L spine without cord 
compression, demyelinating lesions, or signal abnormality. 
Neurological Exam notable for R paraspinal muscle tenderness 
with decreased pp over muscle tension; pp intact in UE, ___, 
Abdomen; ___ motor strength, intact reflexes and proprioception. 
She most likely has sciatica with diarrhea and overflow 
incontinence after narcotic use. Differential also includes: 
Compression neuropathy, double crush syndrome (due to irritation 
at nerve root and sciatic nerve). No indication for inpatient 
LP. She was discharged home with outpt ___ for management of 
sciatica and for symptomatic control for flu. 

Transitional Issues: 
- Outpatient Neurology. If continued neuropathies, can consider 
HNPP, nutritional deficiencies (B12) or other causes for 
neuropathies. 
- Manage Flu
- Outpatient ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H pain  
RX *acetaminophen 500 mg 2 tablet(s) by mouth q8hrs Disp #*30 
Tablet Refills:*0
2. Calcium Carbonate 500 mg PO TID:PRN heartburn 
RX *calcium carbonate [Tums] 200 mg calcium (500 mg) 1 tablet(s) 
by mouth TID prn Disp #*20 Tablet Refills:*0
3. Ibuprofen 400-600 mg PO Q8H:PRN pain 
RX *ibuprofen 400 mg 1 tablet(s) by mouth q8 hr prn Disp #*20 
Tablet Refills:*0
4. Ondansetron 4 mg PO Q6H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth q6 hr prn Disp 
#*30 Tablet Refills:*0
5. Outpatient Physical Therapy
Sciatica
724.3
PCP: ___.
Phone: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sciatica
Flu 
Compression Neuropathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted for tingling/ numbness in your right leg and 
for an episode of diarrhea and urinary incontinence. Your spine 
imaging did not show any structural abnormalities to cause your 
symptoms. You did have significant muscle tension, and you were 
found to have sciatica (irritation of the sciatic nerve). You 
also had the flu with very little hydration/appetite. You were 
also taking narcotics and muscle relaxants which may have caused 
an overflow incontinence. 

We recommend you follow up with outpatient physical therapy for 
sciatica and to manage flu with rest, hydration and symptom 
management (with Zofran, Tylenol, Nsaids. Please follow up with 
neurology as listed below. 

Sincerely, 

YOUR ___ Neurology Team 
 
Followup Instructions:
___